US05929037
Synthesis of 2-deoxy-2-fluoro-3,4,6-tri-O-benzyl-glucopyranosyl bromide (8)
2-Deoxy-2-fluoro-3,4,6-tri-O-benzyl glucopyranose (450 mg) was dissolved in dichloromethane (5.0 mL) and dry DMF (180 μL) was added. The reaction solution was cooled to 0° C. and oxalyl bromide (102 μL) was added. The resulting solution was stirred for 3-5 hours at 0° to 5° C. The solution was then diluted with dichloromethane (50 mL) and washed with water (2×50 mL), dried over sodium sulfate, filtered and evaporated to obtain the title compound.

reactant | 2-Deoxy-2-fluoro-3,4,6-tri-O-benzyl glucopyranose | 450 mg | F[C@H]1C(O)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C27H29FO5
reactant | DMF | 180 μL | CN(C)C=O | C3H7NO
reactant | oxalyl bromide | 102 μL | C(C(=O)Br)(=O)Br | C2Br2O2
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-deoxy-2-fluoro-3,4,6-tri-O-benzyl-glucopyranosyl bromide | F[C@H]1C(O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)Br | C27H28BrFO4
